US06346527B1
A solution of potassium peroxymonosulfate (4.1 g) in water (21 ml) was added dropwise to a mixture of ethyl 2,3-dihydro-7-methylthio-1-benzoxepin-4-carboxylate (0.8 g) and tetrabutylammonium hydrogen sulfate (0.2 g) in ethyl acetate (8 ml) and water (4 ml) at ambient temperature and the mixture was stirred at the same temperature for 3 hours. The separated organic layer was washed with 10% aqueous sodium thiosulfate. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give ethyl 2,3-dihydro-7-methanesulfonyl-1-benzoxepin-4-carboxylate (0.77 g).

reactant | potassium peroxymonosulfate | 4.1 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | ethyl 2,3-dihydro-7-methylthio-1-benzoxepin-4-carboxylate | 0.8 g | CSC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C14H16O3S
reactant | water | 21 ml | O | H2O
reactant | water | 4 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.2 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2,3-dihydro-7-methanesulfonyl-1-benzoxepin-4-carboxylate | 0.77 g | CS(=O)(=O)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C14H16O5S
